### PR TITLE
[Merged by Bors] - feat: `use` tactic

### PR DESCRIPTION
**Pull request by arthurpaulino**

### CODE REVIEW

File: Mathlib/Tactic/Use.lean [hunk 1]
```diff
@@ -0,0 +1,31 @@
...
+example : ∃ x : Nat, x = x := by use 42
+
+example : ∃ x : Nat, ∃ y : Nat, x = y := by use 42, 42
+
+example : ∃ x : String × String, x.1 = x.2 := by use ("forty-two", "forty-two")
+```
+-/
+elab "use " es:term,+ : tactic => do
+  try evalTactic (← `(tactic|(refine ⟨$es,*, ?_⟩; try trivial)))
+  catch e => throwError "use tactic failed: {e.toMessageData}"
```
Comment (gebner) [inline Mathlib/Tactic/Use.lean:31]:
```suggestion
macro "use " es:term,+ : tactic =>
  `(tactic|(refine ⟨$es,*, ?_⟩; try trivial))
```

**Comment by gebner** [comment]
bors merge
